US06794385B2
A mixture of 2-bromopyridine (12.3 mL, 126.7 mmol) and pyridine (13 mL, 161 mmol) in 1,3-diaminopropane (53.5 mL, 640 mmol) was refluxed under nitrogen for 18 hours. The reaction mixture was evaporated under reduced pressure and cooled, and the resulting residue was treated with THF (150 mL) to yield a white precipitate. The precipitate was filtered and washed with additional THF (100 mL). Evaporation of the filtrate afforded an orange oil, which was distilled in vacuo to give N-(2-pyridinyl)-1,3-propanediamine (9.6 g, 50%) as a colorless oil: bp 128-132° C. (2 mmHg).

reactant | 2-bromopyridine | 126.7 mmol, 12.3 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | pyridine | 161 mmol, 13 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-diaminopropane | 640 mmol, 53.5 mL | NCCCN | C3H10N2
product | N-(2-pyridinyl)-1,3-propanediamine | 9.6 g, 50% | N1=C(C=CC=C1)NCCCN | C8H13N3
